US07759379B2
3,3-Dimethyl-6-nitro-2,3-dihydro-1H-indole
2 g 1-(3,3-dimethyl-6-nitro-2,3-dihydro-indol-1-yl)-ethanone were dissolved in a mixture of 6 ml dioxane and 6 ml of an aqueous 2 N solution of hydrochloric acid in a process vial. The vial was sealed with a teflon septum and placed in the microwave cavity. The reaction mixture was stirred for 15 minutes at 120° C. by microwave-assisted heating (Emrys Optimizer, Personal Chemistry). After removal of the solvent under reduced pressure the residue was treated with an aqueous saturated solution of sodium carbonate and extracted with ethyl acetate. The organic layer was dried over anhydrous sodium sulfate. Filtration and concentration of the solvent under reduced pressure yielded a white solid.

reactant | 1-(3,3-dimethyl-6-nitro-2,3-dihydro-indol-1-yl)-ethanone | 2 g | CC1(CN(C2=CC(=CC=C12)[N+](=O)[O-])C(C)=O)C | C12H14N2O3
solvent | dioxane | 6 ml | O1CCOCC1 | C4H8O2
solvent | hydrochloric acid | Cl | ClH
product | 3,3-Dimethyl-6-nitro-2,3-dihydro-1H-indole | CC1(CNC2=CC(=CC=C12)[N+](=O)[O-])C | C10H12N2O2
